* tb_task5_lstb.spice — Task 5: Loop Stability (Phase Margin)
* Measure PM at 4 load conditions: 0mA, 1mA, 10mA, 50mA
* Method: AC injection at feedback node, core loop only

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0

.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po

.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../09_startup/design.cir

* Core regulation loop (no protection/UV/OV for clean AC)
* error_amp ports: vref vfb vout_gate pvdd gnd ibias en bvdd
XM_pass gate bvdd pvdd pass_device
XEA avbg vfb ea_out pvdd 0 ibias ea_en bvdd error_amp
XFB pvdd vfb_div 0 feedback_network
XCOMP ea_out pvdd 0 compensation
XSU bvdd pvdd gate 0 avbg startup_done ea_en ea_out startup

* DC loop closure + AC injection at feedback node
Rdc vfb_div vfb 100Meg
Cinj ac_src vfb 1
Vac ac_src 0 AC 1

* Supplies
Vbvdd bvdd 0 DC 7.0
Vavbg avbg 0 DC 1.226
Ibias ibias 0 DC 1u
Ven en 0 DC 7.0

* Load — parameterized
.param rload_val = 500
Rload pvdd 0 {rload_val}
Cout pvdd 0 1u

.nodeset v(pvdd)=5.0 v(ea_out)=2.5 v(gate)=5.6 v(vfb)=1.226 v(ea_en)=7.0

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4

.control

echo ""
echo "============================================"
echo "  Task 5: Loop Stability — Phase Margin"
echo "============================================"

* Feedback ratio
let beta = 0.2452

* Loop over 4 load conditions
foreach rval 1e6 5000 500 100

  alterparam rload_val = $rval
  reset

  op
  echo ""
  echo "--- Rload = $rval ohms ---"
  echo "DC OP: pvdd=$&v(pvdd) vfb=$&v(vfb) ea_out=$&v(ea_out) gate=$&v(gate)"

  ac dec 50 1 100meg

  * Loop gain T(s) = A(s) * beta
  let T_mag = abs(v(pvdd)) * beta
  let T_db = 20 * log10(T_mag + 1e-30)
  let T_ph = 180/PI * cph(v(pvdd)) + 180

  * Unwrap phase to [-180, 180]
  let npts = length(T_db)
  let i = 0
  dowhile i < npts
    if T_ph[i] > 180
      let T_ph[i] = T_ph[i] - 360
    end
    let i = i + 1
  end

  * Find UGB (0dB crossing) and phase margin
  let ugb_hz = 0
  let pm_deg = 0
  let i = 1
  dowhile i < npts
    if ugb_hz = 0
      if T_db[i-1] > 0
        if T_db[i] <= 0
          let ugb_hz = frequency[i]
          let pm_deg = T_ph[i]
        end
      end
    end
    let i = i + 1
  end

  * Find gain margin (phase = -180 crossing)
  let gm_db = 0
  let gm_freq = 0
  let i = 1
  dowhile i < npts
    if gm_freq = 0
      if T_ph[i-1] > -180
        if T_ph[i] <= -180
          let gm_db = -T_db[i]
          let gm_freq = frequency[i]
        end
      end
    end
    let i = i + 1
  end

  let dc_gain = T_db[0]
  echo "DC gain:       $&dc_gain dB"
  echo "UGB:           $&ugb_hz Hz"
  echo "Phase margin:  $&pm_deg degrees"
  echo "Gain margin:   $&gm_db dB at $&gm_freq Hz"

  if pm_deg > 45
    echo "RESULT: PASS (PM > 45 deg)"
  else
    echo "RESULT: FAIL (PM <= 45 deg)"
  end

  destroy all
end

echo ""
echo "============================================"
echo "  Task 5 COMPLETE"
echo "============================================"

quit
.endc

.end
